US04025331
N-[O-(β-cyanoethyl)-phosphonomethyl]-glycine
25 g (0.1 mols) of ethyl N-[O-(β-cyanoethyl)-phosphonomethyl]-aminoacetate in 200 ml of water are heated under reflux for 16 hours. The water is then evaporated off in vacuo in a rotary evaporator and the residue is dried at 50° under high vacuum. Thereafter the residue is warmed with 300 ml of ethanol.

reactant | ethyl N-[O-(β-cyanoethyl)-phosphonomethyl]-aminoacetate | 0.1 mols, 25 g | C(#N)CCOP(=O)(O)CNCC(=O)OCC | C8H15N2O5P
solvent | water | 200 ml | O | H2O
product | N-[O-(β-cyanoethyl)-phosphonomethyl]-glycine | C(#N)CCOP(=O)(O)CNCC(=O)O | C6H11N2O5P
